US07893058B2
Step 1: 5-Bromo-thiazole-2-carboxylic acid amide
To 5-bromo-thiazole-2-carboxylic acid (0.267 g, 0.128 mmol) suspended in dry dichloromethane (30 mL) are added oxalyl chloride (0.22 mL, 0.257 mmol) and a drop of DMF. The reaction is stirred for 1 hour at room temperature. The solvent is evaporated and the resultant crude is dissolved in 7M NE3 in MeOH. The reaction mixture is stirred overnight at room temperature. After evaporation of the solvent, the residue is dissolved in dichloromethane and washed with 1M NaOH. The organic phase is dried over MgSO4, filtered and evaporated. The residue is purified by silica gel column chromatography eluting with 95:5 DCM:MeOH to give the title compound (33.8 mg, 25%).

reactant | 5-bromo-thiazole-2-carboxylic acid | 0.128 mmol, 0.267 g | BrC1=CN=C(S1)C(=O)O | C4H2BrNO2S
reactant | oxalyl chloride | 0.257 mmol, 0.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5-Bromo-thiazole-2-carboxylic acid amide | 33.8 mg, 25% | BrC1=CN=C(S1)C(=O)N | C4H3BrN2OS
